US08350051B2
A 50 mL flask replaced with nitrogen was charged with 500 mg of 1,3-bis[(2,6-diisopropyl)phenyl]imidazolinium tetrafluoroborate and 3 g of methanol. To the resulting mixture, 1.4 mL of a methanol solution of 1 M sodium ethoxide was added dropwise at room temperature over 30 minutes. The resulting mixture was stirred at room temperature for 2 hours and then concentrated. To the residue thus obtained, 5 g of 1,3-bis(trifluoromethyl)benzene was added and then the precipitated solid was removed by filtration. The filtrate was concentrated to obtain 430 mg of 2-methoxy-1,3-bis[(2,6-diisopropyl)phenyl]imidazolidine as a pale yellow crystal, yield: 97%.

reactant | 1,3-bis[(2,6-diisopropyl)phenyl]imidazolinium tetrafluoroborate | 500 mg | F[B-](F)(F)F.C(C)(C)C1=C(C(=CC=C1)C(C)C)[NH+]1CN(CC1)C1=C(C=CC=C1C(C)C)C(C)C
reactant | sodium ethoxide | 1 M | [O-]CC.[Na+]
reactant | 1,3-bis(trifluoromethyl)benzene | 5 g | FC(C1=CC(=CC=C1)C(F)(F)F)(F)F | C8H4F6
solvent | methanol | 1.4 mL | CO | CH4O
solvent | methanol | 3 g | CO | CH4O
product | 2-methoxy-1,3-bis[(2,6-diisopropyl)phenyl]imidazolidine | 430 mg, yield: 97% | COC1N(CCN1C1=C(C=CC=C1C(C)C)C(C)C)C1=C(C=CC=C1C(C)C)C(C)C | C28H42N2O
